US04732985
1-{[4-(2-Chloro-3-trifluoromethylphenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,3-dihydroxypropane hemihydrate was prepared by the method described in the previous Example 4-{[4-(2-chloro-3-trifluoromethylphenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2,2-dimethyl-1,3-dioxolane and 60% aqueous acetic acid. The product was characterised as a hemihydrate, m.p. 114° C.

reactant | 4-{[4-(2-chloro-3-trifluoromethylphenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2,2-dimethyl-1,3-dioxolane | ClC1=C(C=CC=C1C(F)(F)F)C1C(=C(NC(=C1C(=O)OC)C)COCC1OC(OC1)(C)C)C(=O)OCC | C25H29ClF3NO7
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-{[4-(2-Chloro-3-trifluoromethylphenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,3-dihydroxypropane hemihydrate | O.ClC1=C(C=CC=C1C(F)(F)F)C1C(=C(NC(=C1C(=O)OC)C)COCC(CO)O)C(=O)OCC.ClC1=C(C=CC=C1C(F)(F)F)C1C(=C(NC(=C1C(=O)OC)C)COCC(CO)O)C(=O)OCC | InChI=1S/2C22H25ClF3NO7.H2O/c2*1-4-34-21(31)18-15(10-33-9-12(29)8-28)27-11(2)16(20(30)32-3)17(18)13-6-5-7-14(19(13)23)22(24,25)26;/h2*5-7,12,17,27-29H,4,8-10H2,1-3H3;1H2
